US06235731B1
2) Synthesis of N-tert-butoxycarbonyl-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]amine
To a solution of 10.770 g (29.713 mM) of N-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]phthalimide in 50 ml of ethanol was added 1.44 ml (29.7 mM) of hydrazine monohydrate and the mixture was refluxed for 2 hours. After this reaction mixture was cooled to room temperature, 7.78 g (35.7 mM) of di-tert-butyl dicarbonate was added and the mixture was stirred at room temperature for 1 hour. This reaction mixture was poured in aqueous solution of sodium hydroxide and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 to ethyl acetate) to provide the title compound.

reactant | N-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]phthalimide | 29.713 mM, 10.770 g | C1(=CC=CC=C1)CCCN1CC(CCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C23H26N2O2
reactant | hydrazine monohydrate | 29.7 mM, 1.44 ml | O.NN
reactant | di-tert-butyl dicarbonate | 35.7 mM, 7.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-tert-butoxycarbonyl-[1-(3-phenylpropan-1-yl)piperidin-3-ylmethyl]amine | C(C)(C)(C)OC(=O)NCC1CN(CCC1)CCCC1=CC=CC=C1 | C20H32N2O2
